US05440037
86.0 g (0.3 mol) of phosphorus oxybromide was added to 73.1 g (1.0 mol) of N,N-dimethylformamide, and 15.1 g (0.1 mol) of guanine (manufactured by Sumika Fine Chemicals Co., Ltd.) was then added, followed by stirring at 100° C. for 4 hours. After cooling, 200 ml of water was carefully added at 20° C. After stirring at room temperature for 24 hours, the precipitating crystal was collected by filtration and dissolved in 200 ml of 25% aqueous ammonia with heating, and the insoluble substances were filtered out. The mother liquor was concentrated under reduced pressure, and the precipitating crystal was collected by filtration to yield 11.1 g (0.052 mol) of a pale yellow crystal of 2-amino-6-bromopurine (yield 52%). Its properties are as follows:

reactant | phosphorus oxybromide | 0.3 mol, 86.0 g | P(=O)(Br)(Br)Br | Br3OP
reactant | N,N-dimethylformamide | 1.0 mol, 73.1 g | CN(C=O)C | C3H7NO
reactant | guanine | 0.1 mol, 15.1 g | N1C(N)=NC=2N=CNC2C1=O | C5H5N5O
solvent | water | 200 ml | O | H2O
product | 2-amino-6-bromopurine | yield 52% | NC1=NC(=C2NC=NC2=N1)Br | C5H4BrN5
